US06599908B1
A slurry of potassium 2,6-dimethoxy-4-nitrophenolate [Collins, R. P. and Davis, M. J. Chem. Soc. (1961), 1986] (38 g, 160 mmol) in DMF (600 ml) was treated with 2-bromoethanol (25 ml, 353 mmol) and hexamethylphosphorus triamide (31 ml, 176 mmol) and the reaction heated at 115° for 6 h. After cooling, the reaction was poured onto 1M hydrochloric acid (1.5 l) and extracted with ethyl acetate (5×500 ml). The organics were washed with 1M sodium hydroxide (4×700 ml), brine (200 ml) and drfied (MgSO4). Concentration in vacuo gave 3,5-dimethoxy-4-(2-hydroxyethoxy)nitrobenzene as an off white solid (31 g) δH (CDCl3) 7.52 (2H, s), 4.21 (2H, t, J 2.9 Hz), 3.94 (3H, s), 3.76 (2H, m) and 2.94 (1H, br s). MS (ES+) 266 (MNa+, 50%), 244 (MH+, 100%). A mixture of this nitrobenzene (750 mg, 3.16 mmol) and 10% palladium on carbon (75 mg) in ethanol (50 ml) was degassed and then subjected to an atmosphere of hydrogen (balloon) for 16 h. at 200. Dichloromethane was added and the solution filtered and solvent removed in vacuo to give 3,5-dimethoxy-4-(2-hydroxyethoxy)aniline as a grey solid (620 mg) after trituration with diethyl ether. δH (CDCl3+DMSO) 5.84 (2H, s), 3.87-3.84 (2H, m), 3.64 (6H, s) and 3.52-3.49 (2H, m). MS (ES+) 214 (MH+, 100%.

reactant | potassium 2,6-dimethoxy-4-nitrophenolate | 160 mmol, 38 g | COC1=C(C(=CC(=C1)[N+](=O)[O-])OC)[O-].[K+]
reactant | 2-bromoethanol | 353 mmol, 25 ml | BrCCO | C2H5BrO
reactant | hexamethylphosphorus triamide | 176 mmol, 31 ml | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | hydrochloric acid | 1M, 1.5 l | Cl | ClH
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
product | 3,5-dimethoxy-4-(2-hydroxyethoxy)nitrobenzene | COC=1C=C(C=C(C1OCCO)OC)[N+](=O)[O-] | C10H13NO6
